US06773888B2
Targets are complementary oligonulceotides labeled with fluorescent dye Cy3. Slides were hybridized with targets in hybridization buffer (2×SSC, 0.1% SDS and complementary target at 100 nM) at room temperature for 1 hr and washed in 2×SSC, 0.1% SDS for 5 min., 0.1×SSC, 0.1% SDS for 10 min., and finally in 0.1×SSC for 1 min. All washings were carried out at room temperature. Results show that the aldehyde slides prepared from photoactivatable silane gave much higher hybridization signal than non-aldehyde slides.

reactant | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
reactant | silane | [SiH4] | H4Si
product | non-aldehyde | C(CCCCCCCC)=O | C9H18O
